US06596732B2
(3S)-N,N-Dimethyl-1,2,3,4-tetrahydroisoquinoline-3-carboxamide Hydrochloride
A solution of 5 g of (3S)-2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (commercial) in 50 ml of DCM is cooled to 0° C. and 5.45 g of triethylamine and then 8 g of BOP are added. Dimethylamine gas is then added by sparging for 5 minutes and the mixture is left stirring for 18 hours at AT. The reaction mixture is taken up in a water/DCM mixture, after separation by settling the organic phase is washed with a 5% KHSO4 solution and with a 5% Na2CO3 solution and dried over Na2SO4, and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, elution being carried out with a DCM/AcOEt (70/30, v/v) mixture. 4 g of the expected product are obtained in the form of an oil, which crystallizes.

reactant | (3S)-2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 5 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O | C15H19NO4
reactant | triethylamine | 5.45 g | C(C)N(CC)CC | C6H15N
reactant | BOP | 8 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Dimethylamine | CNC | C2H7N
reactant | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | (3S)-N,N-Dimethyl-1,2,3,4-tetrahydroisoquinoline-3-carboxamide Hydrochloride | 4 g | Cl.CN(C(=O)[C@H]1NCC2=CC=CC=C2C1)C | InChI=1S/C12H16N2O.ClH/c1-14(2)12(15)11-7-9-5-3-4-6-10(9)8-13-11;/h3-6,11,13H,7-8H2,1-2H3;1H/t11-;/m0./s1
